US05128356
2-Propylbenzimidazole
A mixture of o-phenylenediamine (2.2 g) in butyric anhydride (4.7 g) was stirred for 4 hours at 110° C. To the reaction mixture was added water, which was extracted with ethyl acetate. The organic layer was washed with an aqueous solution of sodium bicarbonate, dilute hydrochloric acid and water and then dried. The solvent was evaporated to dryness, and the residue was refluxed for 1.5 hour in 3N-HCl (35 ml). The reaction mixture was made basic with a 6N NaOH. The crystals were recrystallized from ethyl acetate-hexane to give colorless plates (0.9 g, 38%), m.p. 160°-162° C.

reactant | o-phenylenediamine | 2.2 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | water | O | H2O
solvent | butyric anhydride | 4.7 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 2-Propylbenzimidazole | C(CC)C=1NC2=C(N1)C=CC=C2 | C10H12N2
